US08729102B2
A) 6-(cyclopropylmethoxy)-1,3-benzoxazole
A mixture of 1,3-benzoxazol-6-ol (2.31 g), (bromomethyl)cyclopropane (3.46 g), potassium carbonate (3.54 g) and DMF (25 mL) was stirred at 60° C. for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (2.88 g).

reactant | 1,3-benzoxazol-6-ol | 2.31 g | O1C=NC2=C1C=C(C=C2)O | C7H5NO2
reactant | (bromomethyl)cyclopropane | 3.46 g | BrCC1CC1 | C4H7Br
reactant | potassium carbonate | 3.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 6-(cyclopropylmethoxy)-1,3-benzoxazole | 2.88 g | C1(CC1)COC1=CC2=C(N=CO2)C=C1 | C11H11NO2
